US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)-N-phenethylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with phenethylamine, the title compound was obtained as a white powder in 7% yield: mp 184-185° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.32-7.17 (m, 9H), 5.62 (br s, 1H), 4.47 (s, 2H), 4.09-4.03 (m, 2H), 3.67-3.60 (m, 2H), 3.47-3.42 (m, 2H), 2.88 (d, J=6.9 Hz, 2H), 2.52 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.5, 157.2, 155.4, 152.3, 148.9, 138.7, 134.4, 129.7, 128.8, 128.7, 126.6, 122.1, 121.4, 118.0, 47.3, 42.0, 41.8, 41.1, 35.7, 17.1; MS (ES+) m/z 505.4 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H14F3N3O4S
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)-N-phenethylthiazole-5-carboxamide | 7% yield | CC=1N=C(SC1C(=O)NCCC1=CC=CC=C1)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H23F3N4O3S
